US04150034
3.1 g (0.0254 moles) of salicylic aldehyde are dissolved in 30 ml of anhydrous toluene and 8.1 g (0.025 moles) of N-methyl-carbamic acid-pentachlorophenyl-ester are added under stirring at room temperature, whereafter 2.6 g (0.0257 moles) of triethylamine are added to the mixture under stirring. During the addition of the triethylamine an elevation of the temperature of about 2°-5° C. may be observed. The reaction mixture is stirred at 25°-30° C. for 2 hours, after about 1 hour the reaction mixture becomes clear. The unreacted active ester is filtered, the toluene is removed from the filtrate and the residual oily substance is recrystallized from a three-fold amount of diisopropylether. 2-methyl-carbamoyloxy-benzaldehyde is obtained. Mp.: 128°-132° C.

reactant | salicylic aldehyde | 0.0254 moles, 3.1 g | C1=CC=C(C(=C1)C=O)O | C7H6O2
reactant | N-methyl-carbamic acid-pentachlorophenyl-ester | 0.025 moles, 8.1 g | ClC1=C(C(=C(C(=C1OC(NC)=O)Cl)Cl)Cl)Cl | C8H4Cl5NO2
reactant | triethylamine | 0.0257 moles, 2.6 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-carbamoyloxy-benzaldehyde | CC1=C(C=O)C=CC=C1OC(N)=O | C9H9NO3
